US05661161
Step B: Preparation of Methionine isopropyl ester hydrochloride
HCl gas was bubbled into a solution of N-(t-Butoxycarbonyl methionine isopropyl ester (20.5 g, 0.07 mol) in EtOAc (200 mL) with stirring and cooling to -20° C. for 10 min. The flask was stoppered and stirred at -20° C. for 1 h, argon was bubbled into the solution to remove excess HCl, then the solution was concentrated to dryness to give a white solid which was used without further purification.

reactant | HCl | Cl | ClH
reactant | t-Butoxycarbonyl methionine isopropyl ester | 0.07 mol, 20.5 g | C(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCSC)=O | C13H25NO4S
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Methionine isopropyl ester hydrochloride | Cl.C(C)(C)OC([C@@H](N)CCSC)=O | InChI=1S/C8H17NO2S.ClH/c1-6(2)11-8(10)7(9)4-5-12-3;/h6-7H,4-5,9H2,1-3H3;1H/t7-;/m0./s1
